US05919986
f) (4aR,5R,8aR)-5-((R)-5-Hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-octahydro-naphthalen-1-one
1.22 g (4.17 mmol) of (1S,4aR,5R,8aR)-5-((R)-5-hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-decahydro-naphthalen-1-ol was dissolved in 36 ml of abs. CH2Cl2 and oxidized with 4.72 g (12.51 mmol) of pyridinium dichromate during 2 h at ambient temperature. Filtration overCelite, evaporation to dryness, and flash chromatography (SiO2, Hexane/AcOEt=7/3) produced 860 mg of the title compound as colorless oil.

reactant | (1S,4aR,5R,8aR)-5-((R)-5-hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-decahydro-naphthalen-1-ol | 4.17 mmol, 1.22 g | OC(C#CC[C@@H](C)[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C)(C)C | C19H32O2
reactant | pyridinium dichromate | 12.51 mmol, 4.72 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4aR,5R,8aR)-5-((R)-5-Hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-octahydro-naphthalen-1-one | 860 mg | OC(C#CC[C@@H](C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C19H30O2
